* Diode Clipper — production validation goldens
V1 in 0 DC 0 SIN(0 3.95 239 0 0 0)
D1 in out CLIP
R1 out 0 1k
.model CLIP D(IS=1e-14 N=1.8)
.tran 2.09205e-06 0.0041841 uic
.end
